US04980509
A suspension of 26 g of paratoluene sulfochloride in 200 cm3 of water is cooled to 0° C. With stirring there are slowly added 100 cm3 of a 40% aqueous solution of ethylamine in water. At the end of the addition the reaction mixture is again stirred for two hours at 0° C., then for two hours at ambient temperature. The solid in suspension is filtered, washed several times with water, then dried under reduced pressure. 24 g of N-ethyl(4-methyl phenyl) sulfonamide are obtained.

reactant | paratoluene sulfochloride | 26 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | ethylamine | C(C)N | C2H7N
solvent | water | 200 cm3 | O | H2O
product | N-ethyl(4-methyl phenyl) sulfonamide | 24 g | C(C)NS(=O)(=O)C1=CC=C(C=C1)C | C9H13NO2S
